* 2 to 1 switch with selection
* sel=0  open
* sel=1  selects in1
* sel=2  selects in2
*
*              in1
*               | in2
*               | | out
*               | | | 
*               | | | 
*               | | | 
*               | | |
.subckt sw_2_1o 1 2 3 sel={sel}
.param sel=0 ; default
S1 1 3  11 0 My_sw21o
S2 2 3  12 0 My_sw21o
B1 11 0 V=IF( (({sel}<1.5)&({sel}>=0.5)) , 1, -1)
B2 12 0 V=IF({sel}>=1.5, 1, -1)
.model My_sw21o SW(Ron=.01 Roff=1e10 Vt=0)
.ENDS sw_2_1
